US06383490B1
Synthesis of Compound 1, [1R-(exo,exo)]-3-hydroxy-8-methyl-8-azabicyclo[3.2.1]octane-2-carboxylic acid (common name: (−)-ecgonine), as illustrated in FIG. 1
Commercially available (−)-cocaine (Sigma Chemical Co.) was dissolved in 1.25 M HCl (1 g cocaine/12 ml). The mixture was allowed to stir for 16 hours at 110-115° C. (gentle reflux). After cooling to room temperature, the mixture was thoroughly extracted with ether to remove the benzoic acid by-product. The acidic aqueous layer was evaporated on a rotary evaporator under high vacuum and then the residue was redissolved in water and lyophilized to afford a white solid that required no further purification (92% yield).

reactant | (−)-cocaine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C3=CC=CC=C3)C(=O)OC | C17H21NO4
solvent | HCl | 1.25 M, 12 ml, 1 g | Cl | ClH
product | [1R-(exo,exo)]-3-hydroxy-8-methyl-8-azabicyclo[3.2.1]octane-2-carboxylic acid | 92% yield | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)O | C9H15NO3
